US09233920B2
Potassium cyanide (0.0090 g, 0.138 mmol) and acetone cyanohydrin (0.040 ml, 0.435 mmol) were added to a solution of 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (0.0645 g, 0.140 mmol) in toluene (1.0 ml). To this vigorously stirred suspension was added 2,3,4,5,6-pentafluorophenyl-methyl quininium chloride (0.015 g, 0.028 mmol). The reaction mixture was stirred at 45° C. for 18 hours. At this time water was added and the reaction mixture was extracted with dichloromethane (3×). The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.048 g, 66%) as a white foam. Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol:diethylamine=95:5:0.1, 1 ml/min, retention time 6.52 minutes (major enantiomer), 6.02 minutes (minor enantiomer) indicated that the reaction proceeded with 88% enantioselectivity. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, 1H), 7.78-7.72 (m, 2H), 7.48 (s, 2H), 7.46-7.42 (m, 1H), 4.17 (d, 1H), 4.02 (d, 2H), 2.62 (s, 3H), 1.62 (s, 9H)

reactant | Potassium cyanide | 0.138 mmol, 0.0090 g | [C-]#N.[K+]
reactant | acetone cyanohydrin | 0.435 mmol, 0.040 ml | CC(C#N)(O)C | C4H7NO
reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 0.140 mmol, 0.0645 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | water | O | H2O
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.048 g, 66% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@@](C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C#N)=O)C)=O | C23H20Cl2F3NO3
